Transistor-level TIA private fixture
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.options method=gear maxord=2 reltol=1e-3 abstol=1e-12 vntol=1e-6 itl4=500 rshunt=1e12
* IHP SG13G2 25-Gbaud differential optical-receiver front end
* External nodes: vcc mc mgc oa inp inn finalp finaln gc agc
*                 bufinp bufinn outp outn pkdinp pkdinn detp detn

* =====================================================================
* Bias / references
* =====================================================================
Rrfp vcc vref 3.347k
Rrfn vref 0 1.000k
Ragcr1 vcc vref13 1.538k
Ragcr2 vref13 0 1.000k
XMnbias pbias oa 0 0 sg13_hv_nmos w=5e-6 l=0.45e-6 ng=1 m=1
XMpbias pbias pbias vcc vcc sg13_hv_pmos w=5e-6 l=0.40e-6 ng=1 m=1
Rbb1 vcc vbcb 2.000k
Rbb2 vbcb 0 1.900k
Cbb vbcb 0 20n
Rbbuf1 vcc bufcm 1.000k
Rbbuf2 bufcm 0 2.100k

* =====================================================================
* TIA P: common-base + DC-overload cancellation + EF
* =====================================================================
Lcp vcc tia_rcp 60p
Rcp tia_rcp tia_cp 140
XQcbp tia_cp vbcb inp 0 npn13G2 selft=0 Nx=6
XMpcp ota_sp pbias vcc vcc sg13_hv_pmos w=8e-6 l=0.80e-6 ng=1 m=2
XMplp ota_dp inp ota_sp vcc sg13_hv_pmos w=10e-6 l=1.00e-6 ng=1 m=2
XMprp ota_gp vref ota_sp vcc sg13_hv_pmos w=10e-6 l=1.00e-6 ng=1 m=2
XMnlp ota_dp ota_dp 0 0 sg13_hv_nmos w=5e-6 l=1.00e-6 ng=1 m=2
XMnrp ota_gp ota_dp 0 0 sg13_hv_nmos w=5e-6 l=1.00e-6 ng=1 m=2
Cintp ota_gp 0 400n
XMtp inp ota_gp 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=8
XQefp vcc tia_cp tia_op 0 npn13G2 selft=0 Nx=3
XMefp tia_op oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=3

* =====================================================================
* TIA N
* =====================================================================
Lcn vcc tia_rcn 60p
Rcn tia_rcn tia_cn 140
XQcbn tia_cn vbcb inn 0 npn13G2 selft=0 Nx=6
XMpcn ota_sn pbias vcc vcc sg13_hv_pmos w=8e-6 l=0.80e-6 ng=1 m=2
XMpln ota_dn inn ota_sn vcc sg13_hv_pmos w=10e-6 l=1.00e-6 ng=1 m=2
XMprn ota_gn vref ota_sn vcc sg13_hv_pmos w=10e-6 l=1.00e-6 ng=1 m=2
XMnln ota_dn ota_dn 0 0 sg13_hv_nmos w=5e-6 l=1.00e-6 ng=1 m=2
XMnrn ota_gn ota_dn 0 0 sg13_hv_nmos w=5e-6 l=1.00e-6 ng=1 m=2
Cintn ota_gn 0 400n
XMtn inn ota_gn 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=8
XQefn vcc tia_cn tia_on 0 npn13G2 selft=0 Nx=3
XMefn tia_on oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=3

* =====================================================================
* RF VGA stage 1 (DC-coupled) + EF onto pkdinp/pkdinn
* =====================================================================
Lv1p vcc vg1_rcp 95p
Lv1n vcc vg1_rcn 95p
Rv1p vg1_rcp vg1_cp 35
Rv1n vg1_rcn vg1_cn 35
XQv1p vg1_cp tia_op vg1_ep 0 npn13G2 selft=0 Nx=6
XQv1n vg1_cn tia_on vg1_en 0 npn13G2 selft=0 Nx=6
Rev1p vg1_ep vg1_t 5.5
Rev1n vg1_en vg1_t 5.5
XMv1f vg1_t oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=2
XMv1g vg1_t gc 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=16
XQe1p vcc vg1_cp pkdinp 0 npn13G2 selft=0 Nx=3
XQe1n vcc vg1_cn pkdinn 0 npn13G2 selft=0 Nx=3
XMe1p pkdinp oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=3
XMe1n pkdinn oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=3

* =====================================================================
* RF VGA stage 2 (DC-coupled from pkd nodes)
* =====================================================================
Lv2p vcc vg2_rcp 80p
Lv2n vcc vg2_rcn 80p
Rv2p vg2_rcp vg2_cp 33
Rv2n vg2_rcn vg2_cn 33
XQv2p vg2_cp pkdinp vg2_ep 0 npn13G2 selft=0 Nx=6
XQv2n vg2_cn pkdinn vg2_en 0 npn13G2 selft=0 Nx=6
Rev2p vg2_ep vg2_t 5
Rev2n vg2_en vg2_t 5
XMv2f vg2_t oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=2
XMv2g vg2_t gc 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=16
XQe2p vcc vg2_cp vg2_efp 0 npn13G2 selft=0 Nx=3
XQe2n vcc vg2_cn vg2_efn 0 npn13G2 selft=0 Nx=3
XMe2p vg2_efp oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=3
XMe2n vg2_efn oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=3
Cac3p vg2_efp bufinp 20n
Cac3n vg2_efn bufinn 20n
Rbi3p bufcm bufinp 400
Rbi3n bufcm bufinn 400

* =====================================================================
* Differential output buffer
* =====================================================================
Lbp vcc buf_rcp 40p
Lbn vcc buf_rcn 40p
Rbp buf_rcp outp 96
Rbn buf_rcn outn 96
XQbp outp bufinp buf_ep 0 npn13G2 selft=0 Nx=8
XQbn outn bufinn buf_en 0 npn13G2 selft=0 Nx=8
Reb_p buf_ep buf_t 15
Reb_n buf_en buf_t 15
XMbt buf_t oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=22
Rfp outp finalp 1m
Rfn outn finaln 1m

* =====================================================================
* Peak detector: AC-coupled rectifier + clipping CE pair
* =====================================================================
Rpkb1 vcc vbbpk 31.20k
Rpkb2 vbbpk 0 10.00k
Cpkp pkdinp pkd_bp 1.50p
Cpkn pkdinn pkd_bn 1.50p
Rpkbp vbbpk pkd_bp 2.20k
Rpkbn vbbpk pkd_bn 2.20k
XQpr rec_p pkd_bp 0 0 npn13G2 selft=0 Nx=1
XQnr rec_p pkd_bn 0 0 npn13G2 selft=0 Nx=1
Rrecp vcc rec_p 3.60k
Crecp rec_p 0 8.00p
Rpkd1 vbbpk pkd_bd 2.20k
Rpkd2 vbbpk pkd_be 2.20k
XQpd rec_n pkd_bd 0 0 npn13G2 selft=0 Nx=1
XQnd rec_n pkd_be 0 0 npn13G2 selft=0 Nx=1
Rrecn vcc rec_n 3.60k
Crecn rec_n 0 8.00p
XQga detn rec_p ga_e 0 npn13G2 selft=0 Nx=4
XQgb detp rec_n gb_e 0 npn13G2 selft=0 Nx=4
Rca vcc detn 420
Rcb vcc detp 420
Rea ga_e ga_t 22
Reb gb_e ga_t 22
XMgt ga_t oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=4
Cdetp detp 0 3.00p
Cdetn detn 0 3.00p

* =====================================================================
* AGC amplifier ~15 V/V, AC-coupled and biased at 1.30 V
* =====================================================================
Caga detp agc_bp 100p
Cagb detn agc_bn 100p
Ragbp vref13 agc_bp 10.00k
Ragbn vref13 agc_bn 10.00k
XQagp agc_cn agc_bp agc_ep 0 npn13G2 selft=0 Nx=2
XQagn agc_cp agc_bn agc_en 0 npn13G2 selft=0 Nx=2
Racp vcc agc_cp 4.20k
Racn vcc agc_cn 4.20k
Reap agc_ep agc_t 48
Rean agc_en agc_t 48
XMagc agc_t oa 0 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=2
XQagef vcc agc_cp agc 0 npn13G2 selft=0 Nx=2
XMagef agc oa 0 0 sg13_hv_nmos w=5e-6 l=0.45e-6 ng=1 m=1

* =====================================================================
* Manual / automatic gain mux
* mc=0 V -> gc follows mgc ; mc=3.3 V -> gc follows agc
* =====================================================================
XMinvn mcb mc 0 0 sg13_hv_nmos w=3e-6 l=0.45e-6 ng=1 m=1
XMinvp mcb mc vcc vcc sg13_hv_pmos w=6e-6 l=0.40e-6 ng=1 m=1
XMpgc gc mc mgc vcc sg13_hv_pmos w=10e-6 l=0.40e-6 ng=1 m=16
XMngc2 gc mcb mgc 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=16
XMngc gc mc agc 0 sg13_hv_nmos w=10e-6 l=0.45e-6 ng=1 m=16
XMpgc2 gc mcb agc vcc sg13_hv_pmos w=10e-6 l=0.40e-6 ng=1 m=16
Cgc gc 0 250f

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp PWL(
+ 0 3.33333333e-05 3.9e-11 3.33333333e-05 4e-11 3.33333333e-05 7.9e-11 3.33333333e-05 8e-11 3.33333333e-05 1.19e-10 3.33333333e-05 1.2e-10 9.99999999e-05 1.59e-10 9.99999999e-05
+ 1.6e-10 3.33333333e-05 1.99e-10 3.33333333e-05 2e-10 -9.99999999e-05 2.39e-10 -9.99999999e-05 2.4e-10 -3.33333333e-05 2.79e-10 -3.33333333e-05 2.8e-10 -9.99999999e-05 3.19e-10 -9.99999999e-05
+ 3.2e-10 9.99999999e-05 3.59e-10 9.99999999e-05 3.6e-10 9.99999999e-05 3.99e-10 9.99999999e-05 4e-10 -9.99999999e-05 4.39e-10 -9.99999999e-05 4.4e-10 3.33333333e-05 4.79e-10 3.33333333e-05
+ 4.8e-10 9.99999999e-05 5.19e-10 9.99999999e-05 5.2e-10 9.99999999e-05 5.59e-10 9.99999999e-05 5.6e-10 -3.33333333e-05 5.99e-10 -3.33333333e-05 6e-10 9.99999999e-05 6.39e-10 9.99999999e-05
+ 6.4e-10 -3.33333333e-05 6.79e-10 -3.33333333e-05 6.8e-10 3.33333333e-05 7.19e-10 3.33333333e-05 7.2e-10 -9.99999999e-05 7.59e-10 -9.99999999e-05 7.6e-10 -9.99999999e-05 7.99e-10 -9.99999999e-05
+ 8e-10 -3.33333333e-05 8.39e-10 -3.33333333e-05 8.4e-10 -3.33333333e-05 8.79e-10 -3.33333333e-05 8.8e-10 3.33333333e-05 9.19e-10 3.33333333e-05 9.2e-10 -3.33333333e-05 9.59e-10 -3.33333333e-05
+ 9.6e-10 -3.33333333e-05 9.99e-10 -3.33333333e-05 1e-09 9.99999999e-05 1.039e-09 9.99999999e-05 1.04e-09 -9.99999999e-05 1.079e-09 -9.99999999e-05 1.08e-09 9.99999999e-05 1.119e-09 9.99999999e-05
+ 1.12e-09 3.33333333e-05 1.159e-09 3.33333333e-05 1.16e-09 -3.33333333e-05 1.199e-09 -3.33333333e-05 1.2e-09 -9.99999999e-05 1.239e-09 -9.99999999e-05 1.24e-09 3.33333333e-05 1.279e-09 3.33333333e-05
+ 1.28e-09 3.33333333e-05 1.319e-09 3.33333333e-05 1.32e-09 3.33333333e-05 1.359e-09 3.33333333e-05 1.36e-09 9.99999999e-05 1.399e-09 9.99999999e-05 1.4e-09 3.33333333e-05 1.439e-09 3.33333333e-05
+ 1.44e-09 -9.99999999e-05 1.479e-09 -9.99999999e-05 1.48e-09 -3.33333333e-05 1.519e-09 -3.33333333e-05 1.52e-09 -9.99999999e-05 1.559e-09 -9.99999999e-05 1.56e-09 9.99999999e-05 1.599e-09 9.99999999e-05
+ 1.6e-09 9.99999999e-05 1.639e-09 9.99999999e-05 1.64e-09 -9.99999999e-05 1.679e-09 -9.99999999e-05 1.68e-09 3.33333333e-05 1.719e-09 3.33333333e-05 1.72e-09 9.99999999e-05 1.759e-09 9.99999999e-05
+ 1.76e-09 9.99999999e-05 1.799e-09 9.99999999e-05 1.8e-09 -3.33333333e-05 1.839e-09 -3.33333333e-05 1.84e-09 9.99999999e-05 1.879e-09 9.99999999e-05 1.88e-09 -3.33333333e-05 1.919e-09 -3.33333333e-05
+ 1.92e-09 3.33333333e-05 1.959e-09 3.33333333e-05 1.96e-09 -9.99999999e-05 1.999e-09 -9.99999999e-05 2e-09 -9.99999999e-05 2.039e-09 -9.99999999e-05 2.04e-09 -3.33333333e-05 2.079e-09 -3.33333333e-05
+ 2.08e-09 -3.33333333e-05 2.119e-09 -3.33333333e-05 2.12e-09 3.33333333e-05 2.159e-09 3.33333333e-05 2.16e-09 -3.33333333e-05 2.199e-09 -3.33333333e-05 2.2e-09 -3.33333333e-05 2.239e-09 -3.33333333e-05
+ 2.24e-09 9.99999999e-05 2.279e-09 9.99999999e-05 2.28e-09 -9.99999999e-05 2.319e-09 -9.99999999e-05 2.32e-09 9.99999999e-05 2.359e-09 9.99999999e-05 2.36e-09 3.33333333e-05 2.399e-09 3.33333333e-05
+ 2.4e-09 -3.33333333e-05 2.439e-09 -3.33333333e-05 2.44e-09 -9.99999999e-05 2.479e-09 -9.99999999e-05 2.48e-09 3.33333333e-05 2.519e-09 3.33333333e-05 2.52e-09 3.33333333e-05 2.559e-09 3.33333333e-05
+ 2.56e-09 3.33333333e-05 2.599e-09 3.33333333e-05 2.6e-09 9.99999999e-05 2.639e-09 9.99999999e-05 2.64e-09 3.33333333e-05 2.679e-09 3.33333333e-05 2.68e-09 -9.99999999e-05 2.719e-09 -9.99999999e-05
+ 2.72e-09 -3.33333333e-05 2.759e-09 -3.33333333e-05 2.76e-09 -9.99999999e-05 2.799e-09 -9.99999999e-05 2.8e-09 9.99999999e-05 2.839e-09 9.99999999e-05 2.84e-09 9.99999999e-05 2.879e-09 9.99999999e-05
+ 2.88e-09 -9.99999999e-05 2.919e-09 -9.99999999e-05 2.92e-09 3.33333333e-05 2.959e-09 3.33333333e-05 2.96e-09 9.99999999e-05 2.999e-09 9.99999999e-05 3e-09 9.99999999e-05 3.039e-09 9.99999999e-05
+ 3.04e-09 -3.33333333e-05 3.079e-09 -3.33333333e-05 3.08e-09 9.99999999e-05 3.119e-09 9.99999999e-05 3.12e-09 -3.33333333e-05 3.159e-09 -3.33333333e-05 3.16e-09 3.33333333e-05 3.199e-09 3.33333333e-05
+ 3.2e-09 -9.99999999e-05 3.239e-09 -9.99999999e-05 3.24e-09 -9.99999999e-05 3.279e-09 -9.99999999e-05 3.28e-09 -3.33333333e-05 3.319e-09 -3.33333333e-05 3.32e-09 -3.33333333e-05 3.359e-09 -3.33333333e-05
+ 3.36e-09 3.33333333e-05 3.399e-09 3.33333333e-05 3.4e-09 -3.33333333e-05 3.439e-09 -3.33333333e-05 3.44e-09 -3.33333333e-05 3.479e-09 -3.33333333e-05 3.48e-09 9.99999999e-05 3.519e-09 9.99999999e-05
+ 3.52e-09 -9.99999999e-05 3.559e-09 -9.99999999e-05 3.56e-09 9.99999999e-05 3.599e-09 9.99999999e-05 3.6e-09 3.33333333e-05 3.639e-09 3.33333333e-05 3.64e-09 -3.33333333e-05 3.679e-09 -3.33333333e-05
+ 3.68e-09 -9.99999999e-05 3.719e-09 -9.99999999e-05 3.72e-09 3.33333333e-05 3.759e-09 3.33333333e-05 3.76e-09 3.33333333e-05 3.799e-09 3.33333333e-05 3.8e-09 3.33333333e-05 3.839e-09 3.33333333e-05
+ 3.84e-09 9.99999999e-05 3.879e-09 9.99999999e-05 3.88e-09 3.33333333e-05 3.919e-09 3.33333333e-05 3.92e-09 -9.99999999e-05 3.959e-09 -9.99999999e-05 3.96e-09 -3.33333333e-05 4e-09 -3.33333333e-05
+ )
I_TB_N inn 0 PWL(
+ 0 3.33333333e-05 3.9e-11 3.33333333e-05 4e-11 3.33333333e-05 7.9e-11 3.33333333e-05 8e-11 3.33333333e-05 1.19e-10 3.33333333e-05 1.2e-10 9.99999999e-05 1.59e-10 9.99999999e-05
+ 1.6e-10 3.33333333e-05 1.99e-10 3.33333333e-05 2e-10 -9.99999999e-05 2.39e-10 -9.99999999e-05 2.4e-10 -3.33333333e-05 2.79e-10 -3.33333333e-05 2.8e-10 -9.99999999e-05 3.19e-10 -9.99999999e-05
+ 3.2e-10 9.99999999e-05 3.59e-10 9.99999999e-05 3.6e-10 9.99999999e-05 3.99e-10 9.99999999e-05 4e-10 -9.99999999e-05 4.39e-10 -9.99999999e-05 4.4e-10 3.33333333e-05 4.79e-10 3.33333333e-05
+ 4.8e-10 9.99999999e-05 5.19e-10 9.99999999e-05 5.2e-10 9.99999999e-05 5.59e-10 9.99999999e-05 5.6e-10 -3.33333333e-05 5.99e-10 -3.33333333e-05 6e-10 9.99999999e-05 6.39e-10 9.99999999e-05
+ 6.4e-10 -3.33333333e-05 6.79e-10 -3.33333333e-05 6.8e-10 3.33333333e-05 7.19e-10 3.33333333e-05 7.2e-10 -9.99999999e-05 7.59e-10 -9.99999999e-05 7.6e-10 -9.99999999e-05 7.99e-10 -9.99999999e-05
+ 8e-10 -3.33333333e-05 8.39e-10 -3.33333333e-05 8.4e-10 -3.33333333e-05 8.79e-10 -3.33333333e-05 8.8e-10 3.33333333e-05 9.19e-10 3.33333333e-05 9.2e-10 -3.33333333e-05 9.59e-10 -3.33333333e-05
+ 9.6e-10 -3.33333333e-05 9.99e-10 -3.33333333e-05 1e-09 9.99999999e-05 1.039e-09 9.99999999e-05 1.04e-09 -9.99999999e-05 1.079e-09 -9.99999999e-05 1.08e-09 9.99999999e-05 1.119e-09 9.99999999e-05
+ 1.12e-09 3.33333333e-05 1.159e-09 3.33333333e-05 1.16e-09 -3.33333333e-05 1.199e-09 -3.33333333e-05 1.2e-09 -9.99999999e-05 1.239e-09 -9.99999999e-05 1.24e-09 3.33333333e-05 1.279e-09 3.33333333e-05
+ 1.28e-09 3.33333333e-05 1.319e-09 3.33333333e-05 1.32e-09 3.33333333e-05 1.359e-09 3.33333333e-05 1.36e-09 9.99999999e-05 1.399e-09 9.99999999e-05 1.4e-09 3.33333333e-05 1.439e-09 3.33333333e-05
+ 1.44e-09 -9.99999999e-05 1.479e-09 -9.99999999e-05 1.48e-09 -3.33333333e-05 1.519e-09 -3.33333333e-05 1.52e-09 -9.99999999e-05 1.559e-09 -9.99999999e-05 1.56e-09 9.99999999e-05 1.599e-09 9.99999999e-05
+ 1.6e-09 9.99999999e-05 1.639e-09 9.99999999e-05 1.64e-09 -9.99999999e-05 1.679e-09 -9.99999999e-05 1.68e-09 3.33333333e-05 1.719e-09 3.33333333e-05 1.72e-09 9.99999999e-05 1.759e-09 9.99999999e-05
+ 1.76e-09 9.99999999e-05 1.799e-09 9.99999999e-05 1.8e-09 -3.33333333e-05 1.839e-09 -3.33333333e-05 1.84e-09 9.99999999e-05 1.879e-09 9.99999999e-05 1.88e-09 -3.33333333e-05 1.919e-09 -3.33333333e-05
+ 1.92e-09 3.33333333e-05 1.959e-09 3.33333333e-05 1.96e-09 -9.99999999e-05 1.999e-09 -9.99999999e-05 2e-09 -9.99999999e-05 2.039e-09 -9.99999999e-05 2.04e-09 -3.33333333e-05 2.079e-09 -3.33333333e-05
+ 2.08e-09 -3.33333333e-05 2.119e-09 -3.33333333e-05 2.12e-09 3.33333333e-05 2.159e-09 3.33333333e-05 2.16e-09 -3.33333333e-05 2.199e-09 -3.33333333e-05 2.2e-09 -3.33333333e-05 2.239e-09 -3.33333333e-05
+ 2.24e-09 9.99999999e-05 2.279e-09 9.99999999e-05 2.28e-09 -9.99999999e-05 2.319e-09 -9.99999999e-05 2.32e-09 9.99999999e-05 2.359e-09 9.99999999e-05 2.36e-09 3.33333333e-05 2.399e-09 3.33333333e-05
+ 2.4e-09 -3.33333333e-05 2.439e-09 -3.33333333e-05 2.44e-09 -9.99999999e-05 2.479e-09 -9.99999999e-05 2.48e-09 3.33333333e-05 2.519e-09 3.33333333e-05 2.52e-09 3.33333333e-05 2.559e-09 3.33333333e-05
+ 2.56e-09 3.33333333e-05 2.599e-09 3.33333333e-05 2.6e-09 9.99999999e-05 2.639e-09 9.99999999e-05 2.64e-09 3.33333333e-05 2.679e-09 3.33333333e-05 2.68e-09 -9.99999999e-05 2.719e-09 -9.99999999e-05
+ 2.72e-09 -3.33333333e-05 2.759e-09 -3.33333333e-05 2.76e-09 -9.99999999e-05 2.799e-09 -9.99999999e-05 2.8e-09 9.99999999e-05 2.839e-09 9.99999999e-05 2.84e-09 9.99999999e-05 2.879e-09 9.99999999e-05
+ 2.88e-09 -9.99999999e-05 2.919e-09 -9.99999999e-05 2.92e-09 3.33333333e-05 2.959e-09 3.33333333e-05 2.96e-09 9.99999999e-05 2.999e-09 9.99999999e-05 3e-09 9.99999999e-05 3.039e-09 9.99999999e-05
+ 3.04e-09 -3.33333333e-05 3.079e-09 -3.33333333e-05 3.08e-09 9.99999999e-05 3.119e-09 9.99999999e-05 3.12e-09 -3.33333333e-05 3.159e-09 -3.33333333e-05 3.16e-09 3.33333333e-05 3.199e-09 3.33333333e-05
+ 3.2e-09 -9.99999999e-05 3.239e-09 -9.99999999e-05 3.24e-09 -9.99999999e-05 3.279e-09 -9.99999999e-05 3.28e-09 -3.33333333e-05 3.319e-09 -3.33333333e-05 3.32e-09 -3.33333333e-05 3.359e-09 -3.33333333e-05
+ 3.36e-09 3.33333333e-05 3.399e-09 3.33333333e-05 3.4e-09 -3.33333333e-05 3.439e-09 -3.33333333e-05 3.44e-09 -3.33333333e-05 3.479e-09 -3.33333333e-05 3.48e-09 9.99999999e-05 3.519e-09 9.99999999e-05
+ 3.52e-09 -9.99999999e-05 3.559e-09 -9.99999999e-05 3.56e-09 9.99999999e-05 3.599e-09 9.99999999e-05 3.6e-09 3.33333333e-05 3.639e-09 3.33333333e-05 3.64e-09 -3.33333333e-05 3.679e-09 -3.33333333e-05
+ 3.68e-09 -9.99999999e-05 3.719e-09 -9.99999999e-05 3.72e-09 3.33333333e-05 3.759e-09 3.33333333e-05 3.76e-09 3.33333333e-05 3.799e-09 3.33333333e-05 3.8e-09 3.33333333e-05 3.839e-09 3.33333333e-05
+ 3.84e-09 9.99999999e-05 3.879e-09 9.99999999e-05 3.88e-09 3.33333333e-05 3.919e-09 3.33333333e-05 3.92e-09 -9.99999999e-05 3.959e-09 -9.99999999e-05 3.96e-09 -3.33333333e-05 4e-09 -3.33333333e-05
+ )
.control
set wr_vecnames
set wr_singlescale
tran 1p 4n 0 1p
wrdata pam4.dat v(finalp) v(finaln)
quit
.endc
.end
